US06410592B1
A: 4-(1-Naphthyl)butenoic acid
To a mixture of 3-triphenylphosphorylpropionic acid chloride (12.40 g) and 1-naphthaldehyde in dry tetrahydrofuran (30 cm3) at 0° C. under an atmosphere of nitrogen was added a solution of potassium tert-butoxide (7.54 g) in tetrahydrofuran (30 cm3) over a period of 1 h. The reaction was allowed to warm to room temperature and stirred for a further 12 h before it was quenched with water (40 cm3) and extracted with diethyl ether (2×40 cm3). The aqueous portion was acidified with hydrochloric acid (5 M) and extracted into dichloromethane (3×40 cm3). The organic extracts were dried (Na2SO4) and the solvent was removed under reduced pressure to give a brown oil that crystallised on standing. The product was re-crystallised from aqueous ethyl alcohol to afford the title compound (3.96 g).

reactant | 1-naphthaldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | potassium tert-butoxide | 7.54 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | 4-(1-Naphthyl)butenoic acid | 3.96 g | C1(=CC=CC2=CC=CC=C12)CC=CC(=O)O | C14H12O2
